US09388197B2
A.2.8.1. Synthesis of 5,7-dichloro-2,3-dihydro-1H-inden-1-one O-methyl oxime
To a soln. of 5,7-dichloro-1-indanone (0.34 mmol) in 2 mL MeOH was added O-methylhydroxylamine HCl (0.34 mmol). The reaction mixture was stirred at RT for 17 h and then heated to 50° C. for 24 h. The mixture was cooled to RT, diluted with water and extracted 3 times with EtOAc. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as white solid.

reactant | 5,7-dichloro-1-indanone | 0.34 mmol | ClC=1C=C2CCC(C2=C(C1)Cl)=O | C9H6Cl2O
reactant | O-methylhydroxylamine HCl | 0.34 mmol | Cl.CON
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | O | H2O
product | 5,7-dichloro-2,3-dihydro-1H-inden-1-one O-methyl oxime | CON=C1CCC2=CC(=CC(=C12)Cl)Cl | C10H9Cl2NO
